US05506235
A solution of 4.99 g (18.1 mmol) of 4-chloro-6-methoxyquinoline and 50 mL of 48% hydrobromic acid is heated under reflux for seven hours. Upon cooling to room temperature, the reaction solution afforded a dark solid that was then slurried in water. The aqueous mixture was adjusted to pH 10 by the addition of 4N sodium hydroxide. The resulting solid was filtered, washed with water and air-dried to give 1.83 g (56%) of 4-chloroquinolin-6-ol: m.p. 223° C.

reactant | 4-chloro-6-methoxyquinoline | 18.1 mmol, 4.99 g | ClC1=CC=NC2=CC=C(C=C12)OC | C10H8ClNO
reactant | hydrobromic acid | 50 mL | Br | BrH
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | water | O | H2O
product | 4-chloroquinolin-6-ol | 1.83 g, 56% | ClC1=CC=NC2=CC=C(C=C12)O | C9H6ClNO
